OpenCircuit factory test: MPSA42 saturation
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pdf/datasheet/mpsa42-d.pdf
* Revision: February 2013 Rev. 8
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_MPSA42 NPN(IS=2.8292542430e-15 NF=1.0000000000e0 BF=6.0e1 IKF=9.9999954019e1 ISE=1.3748010721e-18 NE=3.7000261029e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=3.8077482921e1 RE=3.7346228204e0 RC=1.8672782047e1 CJE=1.1836139835e-15 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=8.9736062872e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=2.9589650827e-9 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)
.temp 25

ICS1 0 cs1 DC 2.0000000000e-2
IBS1 0 bs1 DC 2.0000000000e-3
QS1 cs1 bs1 0 OC_ONSEMI_MPSA42
ICS2 0 cs2 DC 2.0000000000e-2
IBS2 0 bs2 DC 2.0000000000e-3
QS2 cs2 bs2 0 OC_ONSEMI_MPSA42
.op
.end
