OpenCircuit factory test: MPSA42 saturation
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pdf/datasheet/mpsa42-d.pdf
* Revision: February 2013 Rev. 8
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_MPSA42 NPN(IS=9.7035549708e-12 NF=1.0000000000e0 BF=3.4535479878e2 IKF=6.2393291561e-2 ISE=8.9414870260e-11 NE=1.4647812635e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=1.3911476241e2 RE=2.1344647239e0 RC=1.5378806071e1 CJE=1.1836139835e-15 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=8.9736062872e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=3.0028831150e-9 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)

.temp 25
ICS1 0 cs1 DC 2.0000000000e-2
IBS1 0 bs1 DC 2.0000000000e-3
QS1 cs1 bs1 0 OC_ONSEMI_MPSA42
ICS2 0 cs2 DC 2.0000000000e-2
IBS2 0 bs2 DC 2.0000000000e-3
QS2 cs2 bs2 0 OC_ONSEMI_MPSA42
.op
.end
